US05117057
To a mechanically stirred solution of t-butylhydrazine hydrochloride (51 g, 0.41 mol) in dioxane (100 ml) and water (50 ml), cooled in an ice bath was treated with 50% sodium hydroxide (32 g). The resulting mixture was treated dropwise with di-t-butyl-dicarbonate (92 g, 0.42 mol) over about one-half of an hour. After complete addition, the reaction mixture was warmed to room temperature and stirred for 2 hours. The resulting white solid was filtered off, washed with water and air-dried to afford 74 g of N'-t-butyl-N-t-butoxycarbonylhydrazine, mp. 69°-71° C.

reactant | t-butylhydrazine hydrochloride | 0.41 mol, 51 g | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 32 g | [OH-].[Na+]
reactant | di-t-butyl-dicarbonate | 0.42 mol, 92 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | N'-t-butyl-N-t-butoxycarbonylhydrazine | 74 g | C(C)(C)(C)NNC(=O)OC(C)(C)C | C9H20N2O2
